US07652041B2
Step 2. Preparation of 4-(4-iodobenzyl)pyridine
A solution of 4-(pyridin-4-ylmethyl)aniline (679 mg, 3.7 mmol) in acetic acid (1.84 mL) and concentrated hydrochloric acid (0.787 mL) was cooled to 0° C. NaNO2 (280 mg, 40.7 mmol) in water (1.23 mL) was added dropwise and the reaction mixture was allowed to stir for 30 min. A solution of KI (737 mg, 4.44 mmol) and iodine (563 mg, 2.22 mmole) in water (3.7 mL) was added dropwise to the above solution. The solution stirred for 30 min at 0° C. and for 1 h at rt. The reaction was quenched by the addition of aq. NaS2O4 and the solution was extracted with EtOAc. The combined organic solutions were washed with sat. NaHCO3, brine and 1% NaOH, dried over MgSO4, filtered and concentrated. The residue was purified by column chromatography to give the title compound (140 mg, 18%). LCMS: (FA) ES+ 296.1 (M+1).

reactant | 4-(pyridin-4-ylmethyl)aniline | 3.7 mmol, 679 mg | N1=CC=C(C=C1)CC1=CC=C(N)C=C1 | C12H12N2
reactant | NaNO2 | 40.7 mmol, 280 mg | N(=O)[O-].[Na+]
reactant | iodine | 2.22 mmole, 563 mg | II | I2
solvent | acetic acid | 1.84 mL | C(C)(=O)O | C2H4O2
solvent | hydrochloric acid | 0.787 mL | Cl | ClH
solvent | water | 1.23 mL | O | H2O
solvent | water | 3.7 mL | O | H2O
product | 4-(4-iodobenzyl)pyridine | 140 mg, 18% | IC1=CC=C(CC2=CC=NC=C2)C=C1 | C12H10IN
